US04482710
Dicyclohexylammonium-3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate
5 g of 7-aminocephalosporanic acid and 3.1 g of sodium hydrogen carbonate were dissolved in 50 ml of 66% v/v aqueous methanol, and 75 g of anhydrous calcium chloride were added. The mixture was then stirred at 70° C. for 1.5 hours, after which it was cooled, 100 ml of water and 50 ml of acetone were added, and the mixture was ice-cooled. To the mixture was then added dropwise, with stirring, a solution of 3.75 g of phenoxyacetyl chloride in 20 ml of acetone and the mixture was allowed to stand at room temperature for 30 minutes. The mixture was then concentrated by evaporation under reduced pressure to about two thirds of its original volume, and then 200 ml of ethyl acetate and hydrochloric acid were added. The mixture was extracted twice, each time with 100 ml of ethyl acetate. The extracts were combined, washed with an aqueous solution of sodium chloride, dehydrated over anhydrous magnesium sulphate and then concentrated by evaporation under reduced pressure. The residue was dissolved in about 30 ml of ethyl acetate, and insolubles were filtered off. 3 g of dicyclohexylamine were added to the filtrate, and the mixture was left to stand for 30 minutes at room temperature and then for 3 hours with ice-cooling. The crystals which were produced were collected by filtration and dried, giving 2.1 g (yield 20.4%) of the title compound.

reactant | 7-aminocephalosporanic acid | 5 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sodium hydrogen carbonate | 3.1 g | C(O)([O-])=O.[Na+]
reactant | calcium chloride | 75 g | [Cl-].[Ca+2].[Cl-]
reactant | phenoxyacetyl chloride | 3.75 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
solvent | water | 100 ml | O | H2O
product | Dicyclohexylammonium 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate | 2.1 g, yield 20.4% | C1(CCCCC1)[NH2+]C1CCCCC1.COCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(COC2=CC=CC=C2)=O)=O | InChI=1S/C17H18N2O6S.C12H23N/c1-24-7-10-9-26-16-13(15(21)19(16)14(10)17(22)23)18-12(20)8-25-11-5-3-2-4-6-11;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h2-6,13,16H,7-9H2,1H3,(H,18,20)(H,22,23);11-13H,1-10H2/t13?,16-;/m1./s1
